US04147864
(avii) 1.08 g (3 mmols) of tetrabutylammonium iodide and 1.9 ml (2.52 g, 20 mmols) of dimethylsulphate are added to a suspension of 3.36 g (5 mmols) of 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester (crystalline) in 15 ml of carbon tetrachloride and 10 ml of water. The mixture is vigorously stirred at room temperature and 1 N sodium hydroxide solution is added to it by means of an automatic titrator in sufficient amount to keep the pH constant at 7.0. In the course of 4-5 hours, 1.5-2 equivalents of sodium hydroxide solution are consumed. The mixture is diluted with ethyl acetate and water and a little sodium chloride is added. The organic phase is dried over sodium sulphate and concentrated by evaporation. The residue is crystallised from a little ethyl acetate/hexane, 1:1, and gives 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-iso-crotonic acid diphenylmethyl ester.

reactant | dimethylsulphate | 20 mmols, 1.9 ml, 2.52 g | COS(=O)(=O)OC | C2H6O4S
reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | 5 mmols, 3.36 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C35H32N2O8S2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium hydroxide | 1.5-2 equivalents | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
catalyst | tetrabutylammonium iodide | 3 mmols, 1.08 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methoxy-iso-crotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(/C)\OC)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C36H34N2O8S2
